Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9][H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])[H:11],-5.03462393022
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:7],1.132377762
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:1]#[C:2][O:5][C:6]#[C:7][H:8].[O:3][H:4],4.51186012346
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]#[C:8][H:9],5.64854448829
[O:1][C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:2](=[O:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1],4.60054431639
[O:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],2.98394295288
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[O:7][O:8][H:9],0.639202262419
[C:4]([H:5])#[C:6][O:7][H:8].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],1.43736547236
[H:1][C:2]1([H:3])[O:4][C:5][C:6]1[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:6](=[C:5]=[O:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.13340289018
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-2.05812983094
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5],1.69141095612
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.20179584069
[C:1]#[C:2][C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],2.93743907117
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.67818495831
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10]>>[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])=[C:9][H:10].[O:1],2.4690455896900003
[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([O:4])[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13],3.37780543
[C:1]#[C:2][C:6]([H:7])([H:8])[H:9].[C:3][O:4][H:5]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],-2.7964242403400004
[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7].[H:8]>>[C:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8],-2.04152983721
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],2.03233610086
[C:1]#[C:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2].[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],6.2714452319700005
[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.10881088214
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-1.95337099503
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:9]([H:10])[H:11].[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.69213481175
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:11]([H:12])[H:13],4.9080839465800015
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-4.01128928179
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-6.67748782216
[C:7]([H:8])#[C:9][H:10].[O:1]=[C:2]([H:3])[C:4][O:5][H:6]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9][H:10],-1.64450978479
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.23462359089
[C:1]#[C:2][O:3][H:4].[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.36571695844
[C:3]=[C:4]([H:5])[H:6].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])[H:6],-1.51303140086
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.17184418597
[C:3]([H:4])(=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.69668794696
